data/mechanisms/records/IMS9-EQ9.1a.json
{"mechanism_id": "IMS9-EQ9.1a", "species": [{"species_id": "dimethylbutane_sigma_ionized_molecular_ion", "mapped_smiles": "[CH3:1][C:2]([CH3:5])([CH3:6])[CH2:3][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "tert_butyl_cation", "mapped_smiles": "[CH3:1][C+:2]([CH3:5])[CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:3][CH3:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethylbutane_sigma_ionized_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["tert_butyl_cation", "ethyl_radical"]}], "steps": [{"step_id": "step_sigma_cleavage_charge_retention", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_9_1a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_cleavage_charge_retention", "support_type": "textbook_proposed", "locator": {"page": 226, "equation": "9.1", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (Saturated aliphatic hydrocarbons)"}, "confidence": 0.8, "curator_note": "Equation 9.1, UPPER branch (label 'sigma'). The page writes 'CnH2n+1 R2C-CH2R'  --(-e-)-->  CnH2n+1 R2C(+.)CH2R'  --sigma-->  CnH2n+1 R2C(+) + .CH2R''. The drawn molecular ion is SIGMA-IONIZED: the glyph between the two carbons is a '+' over a single dot printed on the C-C bond itself, i.e. a 2-centre/1-electron sigma bond, not an atom-localized radical cation. ARC COUNT (convention D): the book draws 0 curved arrows / fishhooks anywhere in Equation 9.1 - both the '-e-' ionization arrow and the 'sigma' and 'rH' branch arrows are straight, label-annotated reaction arrows, so the scheme is a net reactant->products diagram, not an arrow-pushing diagram. Both encoded electron_moves are therefore IMPLICIT (curator-reconstructed for electron balance, not drawn): move <1> puts one electron of the cleaving C2-C3 bond on C3 (giving the ethyl radical), move <2> routes the other C2-C3 electron to 'external' - the formal bookkeeping device for the EI ionization hole, because in the mapped SMILES the sigma-ionized bond is necessarily written as an ordinary 2-electron single bond while the book's bond actually holds only ONE electron; C2 is left electron-deficient -> tert-butyl cation. LOCALIZATION (convention B): charge and odd electron are carried in the species fields against a neutral C6H14 skeleton rather than on one atom, because the book localizes '+.' on the sigma BOND (2c-1e), which has no valence-correct single-atom SMILES form; this is the same convention used for pure-hydrocarbon sigma dissociation in IMS4-EQ4.3a/b and IMS8-EQ8.37a. INSTANTIATION (convention F): the scheme is generic (n, R, R' undefined) and NO m/z and NO intensity are printed for the equation itself. Instantiated as 2,2-DIMETHYLBUTANE with n=1 (CnH2n+1 = CH3), R = R = CH3, R' = CH3 (so CH2R' = ethyl) - the smallest alkane fitting the printed skeleton in which BOTH drawn branches (this sigma branch and the rH branch of IMS9-EQ9.1b) are structurally realizable with the same precursor. Cleaving C2-C3 loses the LARGEST alkyl group (ethyl), which the citing sentence says is favored, and retains the charge at the branched carbon, giving CnH2n+1R2C+ = (CH3)3C+. observed_mz 57.0699 is the curator-computed monoisotopic value for C4H9+, NOT a measurement from this equation; page 226 does print '(CH3)3C+ (m/z 57)' - the same ion species - but it does so while discussing Figure 9.1, whose spectrum (printed on the facing page 227) is that of 2,2,3,3-tetramethylbutane, a different and more highly branched alkane, so detected=false and status='inferred' here and no relative_intensity is claimed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 86.109, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c4h9", "species_id": "tert_butyl_cation", "step_id": "step_sigma_cleavage_charge_retention", "observed_mz": 57.0699, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
